US06919329B2
Step 1: Preparation of 2-(benzyloxy)-6-fluorobenzamide
Benzyl alcohol (24 ml, 0.229 mol) is added portionwise to a suspension of sodium hydride (9.16 g, 0.229 mol) in DMF (300 ml) and stirred at room temperature for 1 h. 2,6-Difluorobenzamide (30 g, 0.190 mol) is added in one portion and stirring is continued overnight at room temperature. The reaction mixture is poured into 1N HCl (1.5 l) and extracted with dichloromethane. The extract is washed with water and saline, dried (MgSO4), and evaporated to give product as a white solid suitable for use in the next step (39.6 g, 85%); MS for C14H12FNO2 m/z 246 (M+H)+.

reactant | Benzyl alcohol | 0.229 mol, 24 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | sodium hydride | 0.229 mol, 9.16 g | [H-].[Na+]
reactant | 2,6-Difluorobenzamide | 0.190 mol, 30 g | FC1=C(C(=O)N)C(=CC=C1)F | C7H5F2NO
reactant | HCl | 1N, 1.5 l | Cl | ClH
solvent | DMF | 300 ml | CN(C)C=O | C3H7NO
product | 2-(benzyloxy)-6-fluorobenzamide | C(C1=CC=CC=C1)OC1=C(C(=O)N)C(=CC=C1)F | C14H12FNO2
